US09278910B2
Prepared using General Procedures 6 and 9. To a stirring solution of 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid (500 mg, 2.13 mmol) and methyl 4-amino-2-fluorobenzoate (361 mg, 2.13 mmol) in DMF (5 mL) were added HATU (852 mg, 2.24 mmol) and TEA (744 μl, 5.34 mmol). After stirring at room temperature for 18 h the reaction mixture was diluted with EA (20 mL) and washed with NaHCO3 (2×20 mL) and 1 M HCl (2×20 mL). The organic phase was concentrated in vacuo to afford an orange solid which was dissolved in THF (5 mL) and MeOH (2 mL) and 1 M LiOH (4.3 μL, 4.27 mmol) was added. After stirring at room temperature for 2 h the reaction mixture was concentrated in vacuo, the residue dissolved in water (10 mL) and acidified to pH 1 using 1 M HCl. A white precipitate was formed and the mixture was filtered under vacuum. The captured solid was washed with MeOH (5 mL) to afford a pale brown solid. The solid was triturated with MeOH (5 mL) to afford 198 mg (25%) of 2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-78 as a white solid. LCMS-ESI (m/z) calculated for C17H13F4NO4: 371; found 372 [M+H]+, tR=1.94 min (Method 10).

reactant | 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid | 2.13 mmol, 500 mg | COC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H9F3O3
reactant | methyl 4-amino-2-fluorobenzoate | 2.13 mmol, 361 mg | NC1=CC(=C(C(=O)OC)C=C1)F | C8H8FNO2
reactant | HATU | 2.24 mmol, 852 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | LiOH | 4.27 mmol, 1 M, 4.3 μL | [Li+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | 20 mL | CC(OCC)=O | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | 2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | 198 mg, 25% | FC1=C(C(=O)O)C=CC(=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C17H13F4NO4
